US06288064B1
66.2 g of 6-cyano-1,4-dichlorophthalazine and 92 g of 3-chloro-4-methoxybenzylamine were suspended in 1,200 ml of tetrahydrofuran. After adding 250 ml of triethylamine, the resulting mixture was heated under reflux for 6 hours. The resulting crystals were filtered off and the filtrate was evaporated. The residue was purified by silica gel column chromatography (toluene:tetrahydrofuran=10:1) to give 59 g of 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine as pale yellow crystals. M.p.: 213.0-214.5° C., Mass 359(MH+),

reactant | 6-cyano-1,4-dichlorophthalazine | 66.2 g | C(#N)C=1C=C2C(=NN=C(C2=CC1)Cl)Cl | C9H3Cl2N3
reactant | 3-chloro-4-methoxybenzylamine | 92 g | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | triethylamine | 250 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1,200 ml | O1CCCC1 | C4H8O
product | 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine | 59 g | ClC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)Cl | C17H12Cl2N4O
